US08609688B2
Synthesis of tert-butyl {1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}carbamate
A mixture of tert-butyl[1-(3-bromophenyl)piperidin-4-yl]carbamate (80 mg, 0.225 mmol), bis(pinacolato)diboron (69 mg, 0.270 mmol), Pd(dppf)Cl2.DCM (9 mg, 0.0113 mmol) and potassium acetate (66 mg, 0.675 mmol) in dioxane (3 mL) was heated at 80° C. for 43 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (hexane/AcOEt=90:10→75:25) to afford desired product (99 mg, quant) as pale yellow solid.

reactant | tert-butyl[1-(3-bromophenyl)piperidin-4-yl]carbamate | 0.225 mmol, 80 mg | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC(=CC=C1)Br)=O | C16H23BrN2O2
reactant | bis(pinacolato)diboron | 0.270 mmol, 69 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.0113 mmol, 9 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 0.675 mmol, 66 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl {1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}carbamate | 99 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCC(CC1)NC(OC(C)(C)C)=O)C | C22H35BN2O4
